US08859573B2
4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D1 starting from 3,4-difluorobenzaldehyde and 3,4-difluorophenol. LC-MS (ESI): m/z 253 [M+H]+; 3.39 min (ret time).

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
product | 4-(3,4-difluorophenoxy)-3-fluorobenzaldehyde | FC=1C=C(OC2=C(C=C(C=O)C=C2)F)C=CC1F | C13H7F3O2
